US06358980B1
4-(4-But-2-ynyloxy-phenylsulfanyl)-4-hydroxycarbamoyl-piperidine-1-carboxylic acid tert-butyl ester, prepared by the method outlined in Example 14 (Step 3) (0.175 g, 0.4 mmol), was treated with 4N hydrochloric acid in dioxane (5 mL) at 25 ° C. for 1 h 15 min. The reaction mixture was concentrated in vacuo, diethyl ether was added and the resulting precipitate isolated by filtration to give 4-(4-but-2-ynyloxy-phenylsulfanyl)-piperidine-4-carboxylic acid hydroxyamide as a white solid (0.12 g). Electrospray Mass Spectroscopy: ((M+H)+=321)

reactant | 4-(4-But-2-ynyloxy-phenylsulfanyl)-4-hydroxycarbamoyl-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)(C(NO)=O)SC1=CC=C(C=C1)OCC#CC | C21H28N2O5S
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 4-(4-but-2-ynyloxy-phenylsulfanyl)-piperidine-4-carboxylic acid hydroxyamide | 0.12 g | ONC(=O)C1(CCNCC1)SC1=CC=C(C=C1)OCC#CC | C16H20N2O3S
